US05306723
5-[2-(4-Benzyl-4-hydroxypiperidino)acetyl]-2(1H,3H)-indolone
A mixture of 5-(chloroacetyl)-2(1H,3H)-indolone (2.05 g, 9.78 mmol), 4-hydroxy-4-benzylpiperidine (1.87 g, 9.78 mmol), potassium carbonate (2.97 g, 21.49 mmol), and potassium iodide (0.08 g, 0.48 mmol) in acetonitrile (200 ml) was refluxed overnight. The reaction was cooled and filtered through a celite pad. The filtrate was concentrated to give an orange foam which was flash chromatographed on silica gel with ethyl acetate elution. This afforded 0.79 g of oily yellow solid product. NMR 9.41 (br s, 1H), 7.91 (d, J=8 Hz, 1H), 7.86 (s, 1H), 7.28-7.14 (m, 5H), 6.90 d, J=8 Hz, 1H), 3.76 (s, 2H), 3.52 (s, 2H), 2.78-2.73 (m, 4H), 2.43 {t, J=10.5 Hz, 2H}, 1.86-1.76 (m, 2H), 1.50 (br d, J=12 Hz, 2H), 1.36 (br s, 1H). IR(KBr) 2920, 2815, 1710, 1685, 1615, 1240, 1115. FAB HRMS calcd for C22H25N2O3 (MH+): 365.1867. Observed m/e: 365.1883.

reactant | 5-(chloroacetyl)-2(1H,3H)-indolone | 9.78 mmol, 2.05 g | ClCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8ClNO2
reactant | 4-hydroxy-4-benzylpiperidine | 9.78 mmol, 1.87 g | OC1(CCNCC1)CC1=CC=CC=C1 | C12H17NO
reactant | potassium carbonate | 21.49 mmol, 2.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.48 mmol, 0.08 g | [I-].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-[2-(4-Benzyl-4-hydroxypiperidino)acetyl]-2(1H,3H)-indolone | C(C1=CC=CC=C1)C1(CCN(CC1)CC(=O)C=1C=C2CC(NC2=CC1)=O)O | C22H24N2O3
